US07700628B2
Preparation of N-(5-Chloropyridin-2-yl)-4-carboxy-2-[4-methylthio-2-(3-amino-propoxy)benzoylamino]benzamide Hydrochloride
To a mixture of N-(5-chloropyridin-2-yl)-4-methoxycarbonyl-2-[4-methylthio-2-(3-aminopropoxy)benzoylamino]benzamide (480 mg, 0.91 mmol), MeOH (10 mL) and water (7 mL) was added LiOH (109 mg, 4.54 mmol). The reaction mixture was heated to 65° C. for 45 min and then cooled to room temperature. To the mixture was added 5N HCl (1.8 mL, 9 mmol), and the resulting solid was filtered with CH2Cl2 and 20% Et2O/hexanes washes to give the title compound as a white solid (213 mg, 55%).

reactant | N-(5-chloropyridin-2-yl)-4-methoxycarbonyl-2-[4-methylthio-2-(3-aminopropoxy)benzoylamino]benzamide | 0.91 mmol, 480 mg | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)OC)NC(C1=C(C=C(C=C1)SC)OCCCN)=O)=O | C25H25ClN4O5S
reactant | MeOH | 10 mL | CO | CH4O
reactant | LiOH | 4.54 mmol, 109 mg | [Li+].[OH-]
reactant | HCl | 9 mmol, 5N, 1.8 mL | Cl | ClH
solvent | water | 7 mL | O | H2O
product | N-(5-Chloropyridin-2-yl)-4-carboxy-2-[4-methylthio-2-(3-amino-propoxy)benzoylamino]benzamide Hydrochloride | 213 mg, 55% | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)O)NC(C1=C(C=C(C=C1)SC)OCCCN)=O)=O | InChI=1S/C24H23ClN4O5S.ClH/c1-35-16-5-7-18(20(12-16)34-10-2-9-26)23(31)28-19-11-14(24(32)33)3-6-17(19)22(30)29-21-8-4-15(25)13-27-21;/h3-8,11-13H,2,9-10,26H2,1H3,(H,28,31)(H,32,33)(H,27,29,30);1H
